US09371336B2
To a solution of 2-chloro-4-hydroxypyridine (12.9 g, 100 mmol) in n-BuOH (50 mL) was added t-butyl piperazine-1-carboxylate (46.5 g, 250 mmol). The mixture was heated at 140° C. for 3 days and then diluted with EtOAc (2 L) at ambient temperature. The organic phase was washed with saturated NH4Cl solution and then brine. The organic layer was separated, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by column chromatography (5%-20% MeOH/CH2Cl2) to give 12.2 g (44%) of t-butyl 4-(4-hydroxypyridin-2-yl)piperazine-1-carboxylate as a white solid. MS m/z 280.2 [M+H]+; 1H NMR (500 MHz, CDCl3) δ (ppm) 7.72 (1H, d, J=6.62 Hz), 6.20 (1H, dd, J=6.31, 2.21 Hz), 6.02 (1H, d, J=1.89 Hz), 3.56 (4H, m), 3.42 (4H, m), 1.50 (9H, s).

reactant | 2-chloro-4-hydroxypyridine | 100 mmol, 12.9 g | ClC1=NC=CC(=C1)O | C5H4ClNO
reactant | t-butyl piperazine-1-carboxylate | 250 mmol, 46.5 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | n-BuOH | 50 mL | CCCCO | C4H10O
solvent | EtOAc | 2 L | CCOC(=O)C | C4H8O2
product | t-butyl 4-(4-hydroxypyridin-2-yl)piperazine-1-carboxylate | 12.2 g, 44% | OC1=CC(=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H21N3O3
